*RPLY_BIAS_SKY130A/RPLYBS_OTA
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/RPLYBS_OTA_lpe.spi
#else
.include ../../../../sun_tr_sky130nm/work/lpe/SUNTR_CAP_10_lpe.spi
.include ../../../../sun_tr_sky130nm/work/lpe/SUNTR_CAP_20_lpe.spi
.include ../../../work/xsch/RPLYBS_OTA.spice
#endif

.include ../balun.spi

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
#ifdef Debug
*.option reltol=1e-3 srcsteps=1 ramptime=10n noopiter keepopinfo gmin=1e-12
#else
*.option reltol=1e-5 srcsteps=1 ramptime=10n noopiter keepopinfo gmin=1e-15
#endif

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  dc {vdda}
VPWR PWRUP_1V8 0 dc {vdda}

VI VI 0 dc 0 ac 1
VC VC 0 dc 0.7

XB VI VC VIP VIN balun


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
XDUT VDD_1V8 VO VSS PWRUP_1V8 VIN VIP RPLYBS_OTA

*----------------------------------------------------------------
* MEASURES
*----------------------------------------------------------------


*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

#ifdef Debug
.save all
#else
.save all
*.probe v(VDD_1V8) v(VO) v(VSS) v(PWRUP_1V8) v(VIN) v(VIP)
*+ v(VIN)
#endif

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

#ifdef AC
ac dec 50 1k 1G
#else
dc VI -1 1 1m
#endif

write
#ifdef Debug

*quit
#else

quit
#endif

.endc

.end
